US05328639
17 g of 2-fluorodecanol and 60 ml of pyridine were charged into a 300 ml three-necked round bottom flask and cooled to 0° C. to which 24 g of p-toluenesulfonyl chloride was added in 15 min. The system was held at 0° C. for 1 hour and then subjected to reaction for 7 hours while being held below 20° C. Then, the mixture was charged into water and acidified with hydrochloric acid, followed by extraction with dichloromethane. The organic layer was washed with water, dried with magnesium sulfate and then purified by silica gel chromatography with the use of dichloromethane as the eluent to obtain 23 g of 2-fluorodecyl p-toluenesulfonate.

reactant | 2-fluorodecanol | 17 g | FC(CO)CCCCCCCC | C10H21FO
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 24 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-fluorodecyl p-toluenesulfonate | 23 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCCCCCC)F)C | C17H27FO3S
